US04034040
3-(Dioctadecylamino)propionitrile is prepared by refluxing a mixture of dioctadecylamine (200 g.) and acrylonitrile (1903.8 ml.) for eighteen hours. The mixture is then concentrated to a waxy semi-solid which is slurried in acetone, filtered, and air dried overnight.

reactant | dioctadecylamine | 200 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | acrylonitrile | 1903.8 ml | C(C=C)#N | C3H3N
product | 3-(Dioctadecylamino)propionitrile | C(CCCCCCCCCCCCCCCCC)N(CCC#N)CCCCCCCCCCCCCCCCCC | C39H78N2
